US08486939B2
To 0.224 g (2.38 mmol) of 2-aminopyridine in THF (3 mL) was added 2.5 mL of lithium bis(trimethylsilyl)amide (1 M solution in THF) and the mixture was stirred for 10 min. A solution of 0.204 g (0.56 mmol) of 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-1H-benzimidazole in THF (4 mL) was added and the mixture was stirred for 1 hr. The resulting mixture was neutralized with acetic acid, diluted with water and extracted with EtOAc. The organic layer was washed with water and aqueous NH3, and dried. After removal of the solvent, the residue was purified by chromatography on alumina, eluting with CH2Cl2/EtOAc (1:5) to give an orange powder. Recrystallization from EtOH/CH2Cl2 gave 31.5 mg (13% yield) of 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-N-(2-pyridinyl)-1,3,5-triazin-2-amine: mp 230-232° C.; 1H NMR (CDCl3) δ 8.41-8.37 (m, 2H), 8.20 (d, J=8.4 Hz, 1H), 8.12 (br s, 1H), 7.91-7.89 (m, 1H), 7.75 (td, J=7.5, 1.8 Hz, 1H), 7.60 (t, JHF=53.5 Hz, 1H), 7.45-7.39 (m, 2H), 7.05 (ddd, J=7.3, 4.9, 0.9 Hz, 1H), 3.96-3.94 (m, 4H), 3.85-3.82 (m, 4H); HRMS (FAB+) MNa+ Calcd. for C20H18F2N8NaO: m/z 447.1466. Found: m/z 447.1464.

reactant | 2-aminopyridine | 2.38 mmol, 0.224 g | NC1=NC=CC=C1 | C5H6N2
reactant | lithium bis(trimethylsilyl)amide | 1 M, 2.5 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-1H-benzimidazole | 0.56 mmol, 0.204 g | ClC1=NC(=NC(=N1)N1CCOCC1)N1C(=NC2=C1C=CC=C2)C(F)F | C15H13ClF2N6O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-N-(2-pyridinyl)-1,3,5-triazin-2-amine | 31.5 mg, 13% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)NC1=NC=CC=C1)C=CC=C2)F | C20H18F2N8O
